US04356309
EXAMPLE 1--Preparation of 1-dodecyl-2-(2-pyridyl)imidazole
A mixture of 14.5 g (0.1 mole) 2-(2-pyridyl)imidazole, 6 g (0.11 mole) ground KOH, 30 g (0.1 mole) iodododecane in about 150 ml of acetonitrile was stirred and refluxed for about 2 hours. The iododecane gradually went into solution as the reaction proceeded. After the 2 hours the reaction mixture was cooled and filtered. The resulting residue was extracted with hexane to give 32.5 g of crude product.

reactant | 2-(2-pyridyl)imidazole | 0.1 mole, 14.5 g | N1=C(C=CC=C1)C=1NC=CN1 | C8H7N3
reactant | KOH | [OH-].[K+]
reactant | iodododecane | 0.1 mole, 30 g | ICCCCCCCCCCCC | C12H25I
reactant | iododecane | ICCCCCCCCCC | C10H21I
solvent | acetonitrile | about 150 ml | C(C)#N | C2H3N
product | 1-dodecyl-2-(2-pyridyl)imidazole | 32.5 g | C(CCCCCCCCCCC)N1C(=NC=C1)C1=NC=CC=C1 | C20H31N3
